US03937701
A mixture of 30 parts of 5-(4-amino-1-piperazinyl)-5H-dibenzo[a,d]cycloheptene-10-carbonitrile, 21 parts of 6-methyl-2-pyridinecarboxaldehyde, 1 part of glacial acetic acid, and 250 parts of 2-propanol is heated at the boiling point under reflux with stirring for 4 hours, then stripped of solvent by vacuum distillation. The residue is crystallized from a mixture of tetrahydrofuran and hexane to give 5-{4-[(6-methyl-2-pyridylmethylene)amino]-1-piperazinyl}-5H-dibenzo[a,d]cycloheptene-10-carbonitrile as light brown crystals melting at 200°-202°.

reactant | 5-(4-amino-1-piperazinyl)-5H-dibenzo[a,d]cycloheptene-10-carbonitrile | NN1CCN(CC1)C1C2=C(C(=CC3=C1C=CC=C3)C#N)C=CC=C2 | C20H20N4
reactant | 6-methyl-2-pyridinecarboxaldehyde | CC1=CC=CC(=N1)C=O | C7H7NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | 2-propanol | CC(C)O | C3H8O
product | 5-{4-[(6-methyl-2-pyridylmethylene)amino]-1-piperazinyl}-5H-dibenzo[a,d]cycloheptene-10-carbonitrile | CC1=CC=CC(=N1)C=NN1CCN(CC1)C1C2=C(C(=CC3=C1C=CC=C3)C#N)C=CC=C2 | C27H25N5
